US07034039B2
To a solution of 3-aminomethyl-6-bromo-2-isobutyl-4-phenyl-1(2H)-isoquinolinone (synthesized according to the method similar to that in Example 106 (7)) (5.6 g, 14.5 mmol) and 4-dimethylaminopyridine (20 mg) in tetrahydrofuran (50 mL) was added di-t-butyl dicarbonate (6.3 g, 2.9 mmol). The obtained mixture was stirred at room temperature for 1 h. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was crystallized from diethyl ether to give 3-tert-butoxycarbonylaminomethyl-6-bromo-2-isobutyl-4-phenyl-1(2H)-isoquinolinone (6.6 g, 94%) as crystals.

reactant | 3-aminomethyl-6-bromo-2-isobutyl-4-phenyl-1(2H)-isoquinolinone | NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC(C)C | C20H21BrN2O
reactant | di-t-butyl dicarbonate | 2.9 mmol, 6.3 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | O | H2O
catalyst | 4-dimethylaminopyridine | 20 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 3-tert-butoxycarbonylaminomethyl-6-bromo-2-isobutyl-4-phenyl-1(2H)-isoquinolinone | 6.6 g, 94% | C(C)(C)(C)OC(=O)NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC(C)C | C25H29BrN2O3
